US04927818
A solution of sodium cyanate (52 g) in water (400 ml) was added dropwise to a solution of 1-methyl-5-aminopyrazole (19.4 g) in acetic acid (96 ml) and water (192 ml), and the mixture was stirred at ambient temperature for 7 hours. The reaction mixture was poured into a mixture of water (400 ml) and ethyl acetate (400 ml). The organic layer was separated, washed with saturated aqueous sodium chloride, dried over magnesium sulfate and evaporated to give 1-methyl-5-ureidopyrazole (14.6 g).

reactant | sodium cyanate | 52 g | [O-]C#N.[Na+]
reactant | 1-methyl-5-aminopyrazole | 19.4 g | CN1N=CC=C1N | C4H7N3
reactant | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 400 ml | O | H2O
solvent | acetic acid | 96 ml | C(C)(=O)O | C2H4O2
solvent | water | 192 ml | O | H2O
solvent | water | 400 ml | O | H2O
product | 1-methyl-5-ureidopyrazole | 14.6 g | CN1N=CC=C1NC(=O)N | C5H8N4O
